US06552068B1
Allyl bromide (5.7 ml, 66.56 mmol) was added dropwise to a solution of 7-methoxy-3-(4-methoxyphenyl)thiochroman-4-one (2 g, 6.64 mmol) in dimethyl sulfoxide (34 ml). To this mixture, a solution of potassium tert-butoxide (5.22 g, 46.55 mmol) in dimethyl sulfoxide (70 ml) was slowly added dropwise at 10° C., followed by stirring for 2 hours at 10° C. and for 15 hours at room temperature. Water was added to the reaction mixture, which was then extracted three times with ethyl acetate. The combined organic layers were washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent:ethyl acetate/hexane=1/9) to give 7-methoxy-3-(4-methoxyphenyl)-3-(2-propenyl)thiochroman-4-one (1.78 g, Yield 79%) as a colorless oil.

reactant | Allyl bromide | 66.56 mmol, 5.7 ml | C(C=C)Br | C3H5Br
reactant | 7-methoxy-3-(4-methoxyphenyl)thiochroman-4-one | 6.64 mmol, 2 g | COC1=CC=C2C(C(CSC2=C1)C1=CC=C(C=C1)OC)=O | C17H16O3S
reactant | potassium tert-butoxide | 46.55 mmol, 5.22 g | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 34 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
product | 7-methoxy-3-(4-methoxyphenyl)-3-(2-propenyl)thiochroman-4-one | 1.78 g, Yield 79% | COC1=CC=C2C(C(CSC2=C1)(CC=C)C1=CC=C(C=C1)OC)=O | C20H20O3S
